US06005128
A mixed solution 2.5 ml of THF and water (4:1) was added to 100 mg of 1,1-dichloro-3,4-diphenyl-2,5-bis(trimethylsilyl)silole, and stirring was continued at room temperatures for one hour. Ether was added to the reaction mixture thus obtained to extract the product. The extract was washed with water and dried on sodium sulfate. Sodium sulfate was removed by filtering, and then the filtrate was concentrated to obtain 92 mg of 1,1-dihydroxy-3,4-diphenyl-2,5-bis(trimethylsilyl)silole. The yield was 100%.

reactant | THF | 2.5 ml | C1CCOC1 | C4H8O
reactant | water | O | H2O
reactant | 1,1-dichloro-3,4-diphenyl-2,5-bis(trimethylsilyl)silole | 100 mg | Cl[Si]1(C(=C(C(=C1[Si](C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1)[Si](C)(C)C)Cl | C22H28Cl2Si3
solvent | Ether | CCOCC | C4H10O
product | 1,1-dihydroxy-3,4-diphenyl-2,5-bis(trimethylsilyl)silole | 92 mg, yield was 100% | O[Si]1(C(=C(C(=C1[Si](C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1)[Si](C)(C)C)O | C22H30O2Si3
